US09029391B2
4-[(3,4-Dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarbaldehyde
To a solution of oxalyl chloride (0.015 mL, 0.172 mmol) in DCM (5 mL) at −70° C. was added dropwise DMSO (0.024 mL, 0.344 mmol). After 15 min a solution of 4-[(3,4-dimethylphenyl)(methyl)amino]-3-(hydroxymethyl)-2-methyl-1(2H)-isoquinolinone (25 mg, 0.078 mmol) in DCM (1 mL) was added slowly, and the mixture was kept at −78° C. for 30 min. Then NEt3 (38 uL) was added and the reaction was kept at −78° C. for 1 hour. The mixture was quenched with aq. NaHCO3 and extracted with dichloromethane. The organic phase was dried over sodium sulfate and evaporated to give the crude title compound as yellow oil (16.9 mg, 61.4%). 1H NMR (400 MHz, CDCl3) δ ppm 9.97-9.78 (m, 1 H), 8.64-8.46 (m, 1 H), 7.75-7.54 (m, 2 H), 7.51-7.42 (m, 1 H), 7.07-6.92 (m, 1 H), 6.59-6.38 (m, 2 H), 3.87 (s, 3 H), 3.40 (s, 3 H), 2.18 (d, J=6.3 Hz, 6 H); ES-LCMS: 321.1 (M+1).

reactant | oxalyl chloride | 0.172 mmol, 0.015 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.344 mmol, 0.024 mL | CS(=O)C | C2H6OS
reactant | 4-[(3,4-dimethylphenyl)(methyl)amino]-3-(hydroxymethyl)-2-methyl-1(2H)-isoquinolinone | 0.078 mmol, 25 mg | CC=1C=C(C=CC1C)N(C1=C(N(C(C2=CC=CC=C12)=O)C)CO)C | C20H22N2O2
reactant | NEt3 | 38 uL | CCN(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3,4-Dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarbaldehyde | 16.9 mg, 61.4% | CC=1C=C(C=CC1C)N(C1=C(N(C(C2=CC=CC=C12)=O)C)C=O)C | C20H20N2O2
